US04648996
Lithium octanoate, prepared from octanol and n-butyllithium, in a mixture of tetrahydrofuran/hexane dimethyl formamide was condensed with 2-bromobenzyl bromide to yield 2(octyloxy)methylbromobenzene. This material was treated with n-butyllithium in ether/hexane mixture and subsequently treated with paraformaldehyde to yield 2-(octyloxy)methylbenzyl alcohol. This material was then treated with triphenyl phosphonine bromide to yield [[2-[(octyloxy)-methyl]phenyl]methyl]triphenyl phosphonium bromide. Condensation of this material with 7-formyl-3-methyl-2,4,6-octatrienoic acid ethyl ester, as in Example 3, followed by hydrolysis, as in Example 5, gave the (All-E)-3,7-Dimethyl-9-[2-[(octyloxy)-methyl]phenyl]-2,4,6,8-nonatetraenoic acid, mp 120°-121° (from dichloro methane/hexane mixture).

reactant | Lithium octanoate | C(CCCCCCC)(=O)[O-].[Li+]
reactant | octanol | C(CCCCCCC)O | C8H18O
reactant | n-butyllithium | C(CCC)[Li]
reactant | 2-bromobenzyl bromide | BrC1=C(CBr)C=CC=C1 | C7H6Br2
solvent | tetrahydrofuran hexane dimethyl formamide | O1CCCC1.C(=O)N(C)C.CCCCCC
product | 2(octyloxy)methylbromobenzene | C(CCCCCCC)OCC1=C(C=CC=C1)Br | C15H23BrO
